US06500853B1
2-{4-[(1-benzhydryl-6-chloro-1H-indol-3-yl)methyl]-2,6-dimethylphenoxy}acetic acid
To 1-benzhydryl-6-chloro-1H-indole (1.0 eq) and methyl 2-(4-formyl-2,6-dimethylphenoxy)acetate (0.6 eq) in CH2Cl2 (0.1M) at 0° C. was added neat triethysilane (3 eq) followed by triflouroacetic acid (3 eq). After 10 minutes at 0° C. the reaction was warmed to room temperature and stirred until the initially formed spot by TLC yields a new spot. The reaction was then quenched by the addition of saturated sodium bicarbonate, diluted with CH2Cl2 and washed with saturated sodium bicarbonate, water and brine, dried over magnesium sulfate and purified by column chromatography to yield 89% of the desired product.

reactant | 1-benzhydryl-6-chloro-1H-indole | 1.0 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)Cl | C21H16ClN
reactant | methyl 2-(4-formyl-2,6-dimethylphenoxy)acetate | 0.6 eq | C(=O)C1=CC(=C(OCC(=O)OC)C(=C1)C)C | C12H14O4
reactant | triethysilane | 3 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | triflouroacetic acid | 3 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 0.1M | C(Cl)Cl | CH2Cl2
product | 2-{4-[(1-benzhydryl-6-chloro-1H-indol-3-yl)methyl]-2,6-dimethylphenoxy}acetic acid | 89% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)Cl)CC1=CC(=C(OCC(=O)O)C(=C1)C)C | C32H28ClNO3
